US05162552
504 g of a solution of 240 g of propionaldehyde in 264 g of diethoxyacetaldehyde (glyoxal(mono)diethylacetal) are run into a mixture of 48 g of dimethylamine in 72 g of water and 80 g of propionic acid at 40° C. in the course of 30 minutes, while stirring. The reaction mixture is then stirred for a further 3 hours. After the lower aqueous phase has been separated off, fractional distillation of the organic phase gives 237 g (68.9% of theory) of 2-methyl-4,4-diethoxybut-2-enal of boiling point 67°-69° C./8 mbar.

reactant | propionaldehyde | 240 g | C(CC)=O | C3H6O
reactant | dimethylamine | 48 g | CNC | C2H7N
reactant | propionic acid | 80 g | C(CC)(=O)O | C3H6O2
reactant | diethoxyacetaldehyde | 264 g | C(C)OC(C=O)OCC | C6H12O3
solvent | water | 72 g | O | H2O
product | 2-methyl-4,4-diethoxybut-2-enal | 237 g, 68.9% | CC(C=O)=CC(OCC)OCC | C9H16O3
